US07700589B2
7a) methyl 3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionate
3.3 mL ethyldiisopropyl-amine and 2.06 g (12.6 mmol) of CDT were added to an ice-cooled solution of 2.95 g (12.54 mmol) of methyl 2-amino-3-(3,4-diethyl-phenyl)-propionate in 200 mL of THF and stirred for a further 90 min at 0-10° C. Then 20 mL of DMF were added, the mixture was stirred for a further 30 min, 2.91 g (12.6 mmol) of 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one were added and the suspension was refluxed for 10 h. The reaction mixture was evaporated down in vacuo, combined with semisaturated NaHCO3 solution, exhaustively extracted with EtOAc and dried over MgSO4. After elimination of the desiccant and solvent the crude product was reacted without any further purification.

reactant | ethyldiisopropyl-amine | 3.3 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl 2-amino-3-(3,4-diethyl-phenyl)-propionate | 12.54 mmol, 2.95 g | NC(C(=O)OC)CC1=CC(=C(C=C1)CC)CC | C14H21NO2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 12.6 mmol, 2.91 g | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | methyl 3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionate | C(C)C=1C=C(C=CC1CC)CC(C(=O)OC)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C28H36N4O4
